US09447046B2
Methoxyacetyl chloride (0.55 mL, 6.0 mmol) was added to a solution of 4-cyclopropylaniline (800 mg, 6.0 mmol) and DIEA (1.05 mL, 6.0 mmol) in DCM, and the reaction was stirred at r.t. for 2 h. The reaction was washed with brine, dried (MgSO4), and concentrated to give crude N-(4-cyclopropylphenyl)-2-methoxyacetamide.

reactant | Methoxyacetyl chloride | 6.0 mmol, 0.55 mL | COCC(=O)Cl | C3H5ClO2
reactant | 4-cyclopropylaniline | 6.0 mmol, 800 mg | C1(CC1)C1=CC=C(N)C=C1 | C9H11N
reactant | DIEA | 6.0 mmol, 1.05 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N-(4-cyclopropylphenyl)-2-methoxyacetamide | C1(CC1)C1=CC=C(C=C1)NC(COC)=O | C12H15NO2
